US04117167
2,6-dichloroaniline (360 g.) was dissolved in dimethylformamide (1.5 l.) and added to sodium hydride (obtained by washing sodium hydride in mineral oil (214 g; 50%) with petrol) suspended in dimethylformamide (4.1) at 10° C. When the addition was completed the temperature of the mixture was allowed to rise to the ambient temperature and then cooled to 10° C. A solution of 2-chloro-3,5-dinitrobenzotrifluoride (600 g.) in dimethylformamide (1.5 l.) was slowly added, and the mixture stirred at the ambient temperature for 20 hours. The mixture was poured into salt/iced water (20.1) and the resultant mixture acidified with concentrated hydrochoric acid. The precipitate was collected by decanting off the supernatant liqui and recrystallised from methylated spirit to yield 2(2,6-dichloroanilino)-3,5-dinitrobenzotrifluoride, melting point 97°-99° C.

reactant | 2,6-dichloroaniline | 360 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | sodium hydride | 214 g | [H-].[Na+]
reactant | 2-chloro-3,5-dinitrobenzotrifluoride | 600 g | ClC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F | C7H2ClF3N2O4
reactant | hydrochoric acid | Cl | ClH
solvent | dimethylformamide | 1.5 l | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1.5 l | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2(2,6-dichloroanilino)-3,5-dinitrobenzotrifluoride | ClC1=C(NC2=C(C=C(C=C2[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F)C(=CC=C1)Cl | C13H6Cl2F3N3O4
